US06593286B1
(a) Preparation of the ligand CH3OSi(CH3)2(CH2)3N(CH3)(CH2)2N(CH3)2
Under Ar, a solution of CH3OSi(CH3)2(CH2)3Cl (10.0 g, 59.3 mmol), CH3NHCH2CH2N(CH3)2 (10.0 g, 98.2 mmol) and methanol (5.0 mL) is refluxed for 22 h and then concentrated with a rotary evaporator (about 10 Torr, about 45 ° C.). The concentrate is diluted with ether (50 mL) and filtered. The solid is washed with ether (50 mL), the washings and the filtrate are combined, and the resulting solution is concentrated with a rotary evaporator (about 60 Torr, about 30 ° C.). The concentrate is filtered and the solid is washed with ether (10 mL). The washings and the filtrate are combined, and the resulting solution is concentrated with a rotary evaporator (about 60 Torr, about 30° C.). The resultant ligand, CH3OSi(CH3)2(CH2)3N(CH3)(CH2)2N(CH3)2, having the form of a light yellow liquid, is weighed (8.46 g, 36.4 mmol, 61%).

reactant | CH3OSi(CH3)2(CH2)3Cl | 59.3 mmol, 10.0 g | CO[Si](C)(C)CCCCl | C6H15ClOSi
reactant | CH3NHCH2CH2N(CH3)2 | 98.2 mmol, 10.0 g | CNCCN(C)C | C5H14N2
solvent | methanol | 5.0 mL | CO | CH4O
product | CH3OSi(CH3)2(CH2)3N(CH3)(CH2)2N(CH3)2 | CO[Si](C)(C)CCCN(C)CCN(C)C | C11H28N2OSi
